US06995162B2
4,4-Dimethyl-7-nitro-1,2,3,4-tetrahydro-isoquinoline
4,4-Dimethyl-7-nitro-3,4-dihydro-2H-isoquinolin-1-one (230 mg) was dissolved in THF (10 ml) and BH3Me2S (400 ul) was added and the reaction was stirred overnight at RT. The reaction was quenched with MeOH (10 ml) and NaOH (200 mg) and heating at reflux for 20 min. The mixture was extracted with EtOAc, washed with sat'd NH4Cl, extracted with 10% HCl (20 ml). The acidic solution was treated with 5N NaOH (15 ml), extracted with EtOAc (30 ml) dried, filtered and evaporated to give the compound as a yellow solid. M+H 207.2, Calc'd 206.

reactant | 4,4-Dimethyl-7-nitro-3,4-dihydro-2H-isoquinolin-1-one | 230 mg | CC1(CNC(C2=CC(=CC=C12)[N+](=O)[O-])=O)C | C11H12N2O3
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 4,4-Dimethyl-7-nitro-1,2,3,4-tetrahydro-isoquinoline | CC1(CNCC2=CC(=CC=C12)[N+](=O)[O-])C | C11H14N2O2
